US04728662
To 3.5 g of {[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetyl chloride is added 50 ml of conc ammonium hydroxide at 0° C. After stirring for 2 hr the precipitate is filtered and washed with ice-cold acetonitrile. Recrystallization of the filter cake from acetonitrile gives {[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetamide, mp 172° C.

reactant | {[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetyl chloride | 3.5 g | ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)OCC(=O)Cl | C15H8Cl2FNO3
reactant | ammonium hydroxide | 50 ml | [OH-].[NH4+]
product | {[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetamide | ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)OCC(=O)N | C15H10ClFN2O3
